US06589951B1
Synthesis of 1-Chloro-6-methoxy-5-(tetrahydro-pyran-2-yl-methoxy)-phthalazine
Operating analogously to example 7 staring from 6-methoxy-5-(tetrahydropyran-2-yl-methoxy)-2H-phthalazin-1-one (1.48 g, 5.12 mmoles), obtained as described in example 42, and phosphoryl chloride (6 ml) 1.65 g of the title product as a crude were obtained and used as such in the next step.

reactant | 6-methoxy-5-(tetrahydropyran-2-yl-methoxy)-2H-phthalazin-1-one | 5.12 mmoles, 1.48 g | COC=1C(=C2C=NNC(C2=CC1)=O)OCC1OCCCC1 | C15H18N2O4
reactant | phosphoryl chloride | 6 ml, 1.65 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-6-methoxy-5-(tetrahydro-pyran-2-yl-methoxy)-phthalazine | ClC1=NN=CC2=C(C(=CC=C12)OC)OCC1OCCCC1 | C15H17ClN2O3
